US08420640B2
A solution of 2-(benzylamino)-4-(4-benzoylpiperazin-1-yl)benzoic acid (80 mg, 0.2 mmol), diethylamine (0.10 ml, 1.0 mmol), triethylamine (0.13 ml, 1.0 mmol) and diphenylphosphoryl azide (0.045 ml, 0.2 mmol) in 15 ml THF was stirred for 16 hours. The run was quenched with 1 ml water and all the solvents were evaporated under vacuum. 2-(benzylamino)-N,N-diethyl-4-(4-benzoylpiperazin-1-yl)benzamide (20 mg, 22%) was obtained by flash column chromatograph (50% ethyl acetate in hexanes), and its hydrochloride was made by bubbling HCL gas in ether solution. 1H NMR (500 MHz, MeOD) δ (ppm) 1.23 (t, J=6.8 Hz, 6H), 3.50-4.02 (s, br, 12H), 4.63 (s, 2H), 7.38-7.54 (m, 13H).

reactant | 2-(benzylamino)-4-(4-benzoylpiperazin-1-yl)benzoic acid | 0.2 mmol, 80 mg | C(C1=CC=CC=C1)NC1=C(C(=O)O)C=CC(=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O | C25H25N3O3
reactant | diethylamine | 1.0 mmol, 0.10 ml | C(C)NCC | C4H11N
reactant | triethylamine | 1.0 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.2 mmol, 0.045 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(benzylamino)-N,N-diethyl-4-(4-benzoylpiperazin-1-yl)benzamide | 20 mg, 22% | C(C1=CC=CC=C1)NC1=C(C(=O)N(CC)CC)C=CC(=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O | C29H34N4O2
